US07083982B2
Preparation of 7-chloro-1-methyllepidinium iodide
A portion of the 7-chlorolepidine (80 mg) prepared as above was methylated by heating with CH3I (0.5 ml) in CH3CN (1 ml) at reflux for two hours. The mixture was treated with diethyl ether, followed by centrifugation, to give a yellow powder.

reactant | 7-chlorolepidine | 80 mg | ClC1=CC=C2C(=CC=NC2=C1)C | C10H8ClN
reactant | CH3I | 0.5 ml | CI | CH3I
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | CH3CN | 1 ml | CC#N | C2H3N
product | 7-chloro-1-methyllepidinium iodide | [I-].ClC1=CC=C2C(=CC=[N+](C2=C1)C)C | InChI=1S/C11H11ClN.HI/c1-8-5-6-13(2)11-7-9(12)3-4-10(8)11;/h3-7H,1-2H3;1H/q+1;/p-1
